US08097759B2
N-[3,5-Bis(trifluoromethyl)phenyl]-5-dimethylamino-2-hydroxybenzamide
Using 5-dimethylaminosalicylic acid and 3,5-bis(trifluoromethyl)aniline as the raw materials, the same operation as the example 16 gave the title compound.

reactant | 5-dimethylaminosalicylic acid | CN(C1=CC=C(C(C(=O)O)=C1)O)C | C9H11NO3
reactant | 3,5-bis(trifluoromethyl)aniline | FC(C=1C=C(N)C=C(C1)C(F)(F)F)(F)F | C8H5F6N
product | N-[3,5-Bis(trifluoromethyl)phenyl]-5-dimethylamino-2-hydroxybenzamide | Yield: 28.8% | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(C1=C(C=CC(=C1)N(C)C)O)=O)(F)F | C17H14F6N2O2
